US06545009B1
In the same manner as in Example 28, methyl 4-thiocarbamoylbenzoate was reacted with 4-bromoacetylpyridine hydrobromide to obtain methyl 4-[4-(4-pyridyl)-2-thiazolyl]benzoate hydrobromide. The product was recrystallized from ethanol. Yield: 66%. Pale yellow prisms. Melting point: 238 to 240° C.

reactant | methyl 4-thiocarbamoylbenzoate | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
reactant | 4-bromoacetylpyridine hydrobromide | Br.BrCC(=O)C1=CC=NC=C1
product | methyl 4-[4-(4-pyridyl)-2-thiazolyl]benzoate hydrobromide | Yield: 66% | Br.N1=CC=C(C=C1)C=1N=C(SC1)C1=CC=C(C(=O)OC)C=C1 | InChI=1S/C16H12N2O2S.BrH/c1-20-16(19)13-4-2-12(3-5-13)15-18-14(10-21-15)11-6-8-17-9-7-11;/h2-10H,1H3;1H
